### PR TITLE
[Merged by Bors] - feat(NumberTheory): define Carmichael numbers

### PR DESCRIPTION
**Pull request by felixpernegger**
https://en.wikipedia.org/wiki/Carmichael_number
I.e. composite numbers that pass the Euler-Fermat test for all basis (not to be confused with the carmichael function, which is in mathlib and use in this file...)

We also prove Korselt's criterion, which gives a relatively fast test is a number is a Carmichael number.

A fun challenge would be to prove efficiently that 561 is the smallest Carmicheal number. The following code works but is way too slow for mathlib:

```
example (hn : n < 561) : ¬ IsCarmichael n := by
  rw [isCarmichael_iff_korselt_primeFactorsList] at ⊢
  simp only [not_and, not_forall]
  intro
  interval_cases n
  all_goals simp only [List.nodup_nil, not_true_eq_false, List.not_mem_nil, imp_false,
    Decidable.not_not, IsEmpty.forall_iff, List.nodup_cons, not_false_eq_true, and_self,
    Nat.add_one_sub_one, List.mem_cons, or_false, exists_prop, primeFactorsList_ofNat,
    exists_eq_left, dvd_refl, forall_const, reduceEqDiff, or_self, and_true, and_false,
    or_self_left, exists_eq_or_imp, isUnit_iff_eq_one, IsUnit.dvd, ↓existsAndEq, reduceDvd, or_true,
    implies_true]
  all_goals norm_num 
 ```
 
 Some of the proofs were originally made by Codex, but heavily golfed etc

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 1]
```diff
@@ -0,0 +1,203 @@
...
+theorem not_isCarmichael_zero : ¬ IsCarmichael 0 := by
+  intro h
+  simpa using h.two_lt
+
+@[simp]
+theorem not_isCarmichael_one : ¬ IsCarmichael 1 := by
+  intro h
+  simpa using h.two_lt
+
+-- TODO: move this to a more appropriate file
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]: The reason I put this here is that virtually all similar lemmas I found live in https://github.com/leanprover/lean4/blob/master/src/Init/Data/Nat/Lemmas.lean

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 2]
```diff
@@ -0,0 +1,203 @@
...
+* `Nat.IsCarmichael`: a predicate for Carmicheal numbers
+
+## Main results
+
+* `Nat.IsCarmichael_iff_korselt`: Korselt's criterion for Carmichael numbers
+* `Nat.isCarmichael_561`: `561` is a Carmichael number
+
+## TODO
+
+* Prove (in computationally efficient manner) that there are no Carmichael numbers less than `561`.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
* Prove (in a computationally efficient manner) that there are no Carmichael numbers
  less than `561`.
```

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 3]
```diff
@@ -0,0 +1,203 @@
...
+-/
+
+public section
+
+namespace Nat
+
+open ArithmeticFunction
+
+/-- We say a natural number `n` is a Carmichael number if it is greater than 2, composite and
+for all natural number `b` coprime to `n` we have `n ∣ b ^ (n - 1) - 1`. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
for all natural numbers `b` coprime to `n` we have `n ∣ b ^ (n - 1) - 1`. -/
```
(or "for every natural number")

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 4]
```diff
@@ -0,0 +1,203 @@
...
+@[expose]
+def IsCarmichael (n : ℕ) : Prop :=
+  2 < n ∧ ¬ n.Prime ∧ ∀ b, b.Coprime n → ProbablePrime n b
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean:47]: `1 < n` would be sufficient (`2` is a prime and fails the next condition).
The Wikipedia definition just says "composite", but it looks like Mathlib does not have the corresponding predicate.

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 5]
```diff
@@ -0,0 +1,203 @@
...
+  simpa using h.two_lt
+
+@[simp]
+theorem not_isCarmichael_one : ¬ IsCarmichael 1 := by
+  intro h
+  simpa using h.two_lt
+
+-- TODO: move this to a more appropriate file
+lemma sub_one_pow_mod {n : ℕ} (hn : 2 ≤ n) (k : ℕ) :
+    (n - 1) ^ k % n = if Odd k then n - 1 else 1 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]: I think it is better to not use `%`, but instead work in `ZMod n`, where this reduces to `neg_one_pow_eq_ite`. I.e., this and the next lemma are not actually necessary.

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 6]
```diff
@@ -0,0 +1,203 @@
...
+  rw [ProbablePrime, dvd_iff_mod_eq_zero, ← mod_sub_of_le] at this
+  · rw [sub_one_pow_mod h.two_lt.le] at this
+    contrapose! this
+    simp_rw [(odd_sub' (m := n) (n := 1) (by grind [h.two_lt.le])).mpr (by simp_all)]
+    exact Nat.sub_ne_zero_iff_lt.mpr <| lt_sub_of_add_lt h.two_lt
+  · rw [sub_one_pow_mod h.two_lt.le]
+    by_cases h0 : Odd (n - 1)
+    · simp [h0]
+      grind [h.two_lt]
+    · simp [h0]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]: Add the following lemma (which seems to be missing) at a suitable place (and in the `ZMod` namespace):
```lean
lemma neg_one_eq_one_iff {n : ℕ} : (-1 : ZMod n) = 1 ↔ n = 1 ∨ n = 2 := by
  rw [neg_eq_iff_add_eq_zero, one_add_one_eq_two, show (2 : ZMod n) = (2 :) from rfl,
    natCast_eq_zero_iff, dvd_prime Nat.prime_two]
```

Then move the result here after `IsCarmichael.zmod_unit_pow_sub_one` and replace the proof as follows.
```suggestion
theorem IsCarmichael.odd (h : n.IsCarmichael) : Odd n := by
  match n with
  | 0 => exact (not_isCarmichael_zero h).elim
  | n + 1 =>
    rw [odd_add_one, not_odd_iff_even]
    have H := h.zmod_unit_pow_sub_one (-1)
    rw [Nat.add_one_sub_one, neg_one_pow_eq_ite] at H
    contrapose! H
    rw [ite_eq_right H, Ne, Units.ext_iff, Units.val_one, Units.coe_neg_one,
      ZMod.neg_one_eq_one_iff]
    grind [h.two_lt]
```
(The `match` is to avoid dealing with `n - 1`.)

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 7]
```diff
@@ -0,0 +1,203 @@
...
+/-- A Carmichael number is squarefree. -/
+theorem IsCarmichael.squarefree (h : n.IsCarmichael) : Squarefree n := by
+  intro k hk
+  rw [isUnit_iff_eq_one]
+  contrapose! hk
+  intro hn
+  obtain ⟨p, hp, pk⟩ := ne_one_iff_exists_prime_dvd.mp hk
+  have : NeZero (p ^ 2) := ⟨pow_ne_zero 2 hp.ne_zero⟩
+  have : NeZero n := ⟨by grind [h.two_lt]⟩
+  have p_dvd : p * p ∣ n := dvd_trans (by gcongr) hn
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
  refine squarefree_iff_prime_squarefree.mpr fun p hp p_dvd ↦ ?_
  have : NeZero (p ^ 2) := ⟨pow_ne_zero 2 hp.ne_zero⟩
  have : NeZero n := ⟨by grind [h.two_lt]⟩
```

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 8]
```diff
@@ -0,0 +1,203 @@
...
+  have p_odd : Odd p := h.odd.of_dvd_nat <| dvd_trans (p.dvd_mul_left p) p_dvd
+  have h_cyclic : IsCyclic (ZMod (p ^ 2))ˣ :=
+    (ZMod.isCyclic_units_iff_of_odd p_odd.pow).mpr ⟨p, 2, hp, p_odd, rfl⟩
+  obtain ⟨r, hr⟩ := isCyclic_iff_exists_orderOf_eq_natCard.mp h_cyclic
+  rw [card_eq_fintype_card, ZMod.card_units_eq_totient] at hr
+  have p_sq_dvd : p ^ 2 ∣ n := by simpa [pow_two] using p_dvd
+  obtain ⟨s, hs⟩ := ZMod.unitsMap_surjective p_sq_dvd r
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
  obtain ⟨s, hs⟩ := ZMod.unitsMap_surjective (pow_two p ▸ p_dvd) r
```

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 9]
```diff
@@ -0,0 +1,203 @@
...
+  have r_pow : r ^ (n - 1) = 1 := by rw [← hs, ← map_pow, h.zmod_unit_pow_sub_one, map_one]
+  have phi_dvd : φ (p ^ 2) ∣ n - 1 := by
+    rw [← hr]
+    exact orderOf_dvd_of_pow_eq_one r_pow
+  have p_dvd_sub : p ∣ n - 1 := dvd_trans (by simp [totient_prime_pow_succ hp 1]) phi_dvd
+  apply hp.ne_one
+  exact eq_one_of_dvd_coprimes ((coprime_self_sub_left (by grind [h.two_lt])).mpr (by simp))
+    p_dvd_sub (dvd_trans (p.dvd_mul_right p) p_dvd)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]: An alternative endgame that is mathematically a bit simpler:
```suggestion
  have p_dvd_n : p ∣ n := dvd_trans (dvd_mul_left p p) p_dvd
  have := Nat.dvd_sub_iff_right (show 1 ≤ n by grind [h.two_lt]) p_dvd_n |>.mp p_dvd_sub
  exact hp.not_dvd_one this
```

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 10]
```diff
@@ -0,0 +1,203 @@
...
+
+theorem IsCarmichael.carmichael_dvd_pred (h : n.IsCarmichael) : carmichael n ∣ n - 1 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
theorem IsCarmichael.carmichael_dvd_sub_one (h : n.IsCarmichael) : carmichael n ∣ n - 1 := by
```
`pred` does not occur in the statement.

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 11]
```diff
@@ -0,0 +1,203 @@
...
+  have : NeZero n := ⟨by grind [h.two_lt]⟩
+  rw [carmichael_eq_exponent']
+  apply Monoid.exponent_dvd_of_forall_pow_eq_one
+  intro s
+  exact h.zmod_unit_pow_sub_one s
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
  exact Monoid.exponent_dvd_of_forall_pow_eq_one h.zmod_unit_pow_sub_one
```

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 12]
```diff
@@ -0,0 +1,203 @@
...
+
+theorem IsCarmichael.prime_sub_one_dvd {p : ℕ} (h : n.IsCarmichael) (hp : p.Prime) (hpn : p ∣ n) :
+    p - 1 ∣ n - 1 := by
+  refine dvd_trans ?_ h.carmichael_dvd_pred
+  rw [← carmichael_of_prime hp]
+  exact carmichael_dvd (by simpa using hpn)
+
+/-- **Korselt's criterion** for Carmichael numbers:
+`n` is a Carmichael number if and only if it is greater than two, composite, sqaurefree and for all
+of for each prime divisor `p`, we have `p - 1 ∣ n - 1`. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
`n` is a Carmichael number if and only if it is greater than two, composite, squarefree, and for
each prime divisor `p` of `n`, we have `p - 1 ∣ n - 1`. -/
```

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 13]
```diff
@@ -0,0 +1,203 @@
...
+  s ^ (n - 1) = 1 := by
+  have _ : NeZero n := ⟨by grind [hn.two_lt]⟩
+  have suf : (↑s : ZMod n).val ^ (n - 1) ≡ 1 [MOD n] := by
+    apply (probablePrime_iff_modEq n ?_).mp <|
+      hn.probablePrime_of_coprime (ZMod.val_coe_unit_coprime s)
+    rw [one_le_iff_ne_zero]
+    intro hs0
+    have h_coprime := ZMod.val_coe_unit_coprime s
+    rw [hs0, coprime_zero_left] at h_coprime
+    grind [hn.two_lt]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]: This can be simplified a bit (via `ZMod.val_eq_zero` and `Units.ne_zero`).
(It is meant to replace the complete proof except the last two lines. Something went wrong with the lines selection...)
```suggestion
  have : Fact (1 < n) := ⟨by grind [hn.two_lt]⟩
  have suf : (↑s : ZMod n).val ^ (n - 1) ≡ 1 [MOD n] := by
    refine (probablePrime_iff_modEq n ?_).mp <|
      hn.probablePrime_of_coprime (ZMod.val_coe_unit_coprime s)
    rw [one_le_iff_ne_zero, Ne, ZMod.val_eq_zero]
    exact Units.ne_zero s
```
I'm using `refine` in place of `apply` here to signal that no additional arguments need to be filled in.

As an aside: it would be helpful to have a lemma relating `Nat.ProbablePrime` with an equality in `ZMod n`. As already mentioned, working in `ZMod n` (which is a ring) is usually much more convenient than using `a ≡ b [MOD n]` or `a % n`. In any case, the API for `Nat.ProbablePrime` is rather sparse right now.

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 14]
```diff
@@ -0,0 +1,203 @@
...
+  rw [probablePrime_iff_modEq n (show 1 ≤ b by grind)]
+  have carmichael_dvd : carmichael n ∣ n - 1 := by
+    rw [carmichael_factorization]
+    apply Finset.lcm_dvd
+    intro p hp_mem
+    rw [mem_primeFactors] at hp_mem
+    rw [factorization_eq_one_of_squarefree hn_squarefree hp_mem.1 hp_mem.2.1, pow_one,
+      carmichael_of_prime hp_mem.1]
+    exact h_dvd p hp_mem.1 hp_mem.2.1
+  obtain ⟨d, hd⟩ := carmichael_dvd
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
  obtain ⟨d, hd⟩ : carmichael n ∣ n - 1 := by
    rw [carmichael_factorization]
    refine Finset.lcm_dvd fun p hp_mem ↦ ?_
    rw [mem_primeFactors] at hp_mem
    rw [factorization_eq_one_of_squarefree hn_squarefree hp_mem.1 hp_mem.2.1, pow_one,
      carmichael_of_prime hp_mem.1]
    exact h_dvd p hp_mem.1 hp_mem.2.1
```

File: Mathlib/NumberTheory/CarmichaelNumber.lean (hunk 4 above)
Comment (felixpernegger) [reply Mathlib/NumberTheory/CarmichaelNumber.lean:47]: 1 and 2 are both a bit arbitrary, since really it is 560 < n.
I just found 2 a convenient choice for some proofs

**Comment by felixpernegger** [comment]
-awaiting-author

File: Mathlib/NumberTheory/FermatPsp.lean [hunk 15]
```diff
@@ -55,6 +55,10 @@ probable primes to any base.
 def ProbablePrime (n b : ℕ) : Prop :=
   n ∣ b ^ (n - 1) - 1
 
+theorem probablePrime_iff_zmod_one (n : ℕ) {b : ℕ} (hb : b ≠ 0) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FermatPsp.lean:58]: Can you use this now to simplify the proof of `IsCarmichael.zmod_unit_pow_sub_one`? (And perhaps `isCarmichael_iff_korselt`, too,)

**Comment by felixpernegger** [comment]
-awaiting-author

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 16]
```diff
@@ -71,52 +71,44 @@ theorem not_isCarmichael_one : ¬ IsCarmichael 1 := by
...
-    refine (probablePrime_iff_modEq n ?_).mp <|
-      hn.probablePrime_of_coprime (ZMod.val_coe_unit_coprime s)
-    rw [one_le_iff_ne_zero, Ne, ZMod.val_eq_zero]
-    have : Nontrivial (ZMod n) := ZMod.nontrivial_iff.mpr (by grind [hn.two_lt])
-    exact Units.ne_zero s
+  have : Nontrivial (ZMod n) := ZMod.nontrivial_iff.mpr (by grind [hn.two_lt])
   ext
-  simp [← cast_one (R := ZMod n), ← (ZMod.natCast_eq_natCast_iff ..).mpr suf]
+  rw [Units.val_one, Units.val_pow_eq_pow_val,
+    ← @ZMod.natCast_zmod_val _ ⟨by grind [hn.two_lt]⟩ s.val,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]: I think it is clearer to set up the `[NeZero _]` instance explicitly (and avoid the `@` notation), even though it will cost a line. I would even suggest a lemma `IsCarmichael.neZero` that provides this; this avoids the repetition of `grind [_.two_lt]`. (Similarly in the three other similar cases below.)

**Review by MichaelStollBayreuth — APPROVED** [review]
Otherwise LGTM.

File: Mathlib/NumberTheory/CarmichaelNumber.lean (hunk 16 above)
Comment (felixpernegger) [reply Mathlib/NumberTheory/CarmichaelNumber.lean]: ok

**Comment by felixpernegger** [comment]
-awaiting-author

**Comment by MichaelStollBayreuth** [comment]
> A fun challenge would be to prove efficiently that 561 is the smallest Carmichael number.

The problem seems to be that `Nat.primeFactorsList` does not kernel-reduce. The following works (and is fast):
```lean
/-- info: Used 507 heartbeats, which is less than the current maximum of 200000. -/
#guard_msgs in
set_option Elab.async false in
#count_heartbeats in
example : List.range 560 |>.map (fun n ↦ Nat.primeFactorsList (n + 1)) |>.filter (3 ≤ ·.length) |>.filter (2 ∉ ·)
   |>.filter (List.Nodup ·) |>.filter (fun l ↦ ∀ p ∈ l, p - 1 ∣ l.prod - 1) |>.isEmpty := by
  native_decide
```
but `decide` fails here. (This also needs the fact that a Carmichael number has at least three (distinct) prime factors.)

So to get this to work, one needs to make
```lean
example : Nat.primeFactorsList 60 = [2, 2, 3, 5] := by decide
```
work. But this is for another PR.

**Comment by MichaelStollBayreuth** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

@felixpernegger How far do you think we are from a verified tabulation of all Carmichael numbers below B, for say B ~ 10^6 or 10^9?

**Comment by felixpernegger** [comment]
> @felixpernegger How far do you think we are from a verified tabulation of all Carmichael numbers below B, for say B ~ 10^6 or 10^9?

I've experimented a little bit and I think 10^6 is still a challenge and would need observations not yet formalised (also beyond the at least 3 prime factors).

One curious intermediate thing that would be required, is to implemented the Sieve of Eratosthenes for `Nat.primes_below`, which apparently isnt done right now (of course this would also help calculate primes below some threshhold much quicker)
